US04199506
Preparation of Ethyl 2-Phenoxy-4-Trifluoromethyl-5-Thiazolecarboxylate.
A mixture of 5.2 g (0.02 mole) of ethyl 2-chloro-4-trifluoromethyl-5-thiazolecarboxylate, 1.88 g (0.02 mole) of phenol, 2.76 g (0.02 mole) of K2CO3 and 50 ml. of acetone was held at reflux for 3 days. Acetone was removed under reduced pressure. The residue was treated with water, extracted with ether. The ether solution was dried (MgSO4) and concentrated under reduced pressure. The residual solid was heated with hexane, cooled and filtered to give 4.8 g (76%) of the desired product, m.p. 52°-54° C.

reactant | ethyl 2-chloro-4-trifluoromethyl-5-thiazolecarboxylate | 0.02 mole, 5.2 g | ClC=1SC(=C(N1)C(F)(F)F)C(=O)OCC | C7H5ClF3NO2S
reactant | phenol | 0.02 mole, 1.88 g | C1(=CC=CC=C1)O | C6H6O
reactant | K2CO3 | 0.02 mole, 2.76 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | Ethyl 2-Phenoxy-4-Trifluoromethyl-5-Thiazolecarboxylate | 4.8 g, 76% | O(C1=CC=CC=C1)C=1SC(=C(N1)C(F)(F)F)C(=O)OCC | C13H10F3NO3S
